US05843941
rac-7-Chloro-5-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)-2H-1-benzazepin-2-one (86)
A solution of methyl amine (16.0 mL of a 1.1N THF solution, 17.6 mmole) in 50 mL of dry THF was cooled to 0°-5° C. in an ice-water bath. To this solution was added, over a ten minute period, a solution of crude rac-3-bromo-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2-H1-benzazepin-2-one (3.36 g estimated to be 85% pure, 7.36 mmole), dissolved in 55 mL of THF. After 10 minutes, the reaction solution was diluted with 300 mL of EtOAc, washed with water and brine, and dried (sodium sulfate). Concentration and drying under high vacuum yielded 2.98 g of crude material, which was used as is in the next step.

reactant | methyl amine | CN | CH5N
reactant | rac-3-bromo-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2-H1-benzazepin-2-one | 7.36 mmole, 3.36 g | BrC1C(NC2=C(C(=C1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)=O | C16H10BrCl2NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1.1N | C1CCOC1 | C4H8O
product | rac-7-Chloro-5-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)-2H-1-benzazepin-2-one | 2.98 g | ClC=1C=CC2=C(C(=CC(C(N2)=O)NC)C2=C(C=CC=C2)Cl)C1 | C17H14Cl2N2O
